US04258042
Diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-1-(2-morpholinoethyl)-3,5-pyridinedicarboxylate.
To a slurry of sodium hydride (2.6 g g., 55 mmole, 50:50 oil dispersion) in dry, distilled DMF (50 mL) under nitrogen atmosphere was added a solution of diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-3,5-pyridine-dicarboxylate (19.9 g., 50 mmole) in DMF (125 mL). After hydrogen bubbling ceased, the reaction mixture was warmed in a water bath for 1/2 hour, and a toluene (200 mL) solution of N-(2-chloroethyl)-morpholine (8.1 g., 60 mmole) was added dropwise. The reaction mixture was stirred at 110°-115° for 4 hours.

reactant | sodium hydride | 55 mmole, 2.6 g | [H-].[Na+]
reactant | diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-3,5-pyridine-dicarboxylate | 50 mmole, 19.9 g | FC(C1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCC)(F)F | C20H22F3NO4
reactant | hydrogen | [H][H] | H2
reactant | N-(2-chloroethyl)-morpholine | 60 mmole, 8.1 g | ClCCN1CCOCC1 | C6H12ClNO
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | Diethyl 1,4-dihydro-4-(2-trifluoromethylphenyl)-2,6-dimethyl-1-(2-morpholinoethyl)-3,5-pyridinedicarboxylate | FC(C1=C(C=CC=C1)C1C(=C(N(C(=C1C(=O)OCC)C)CCN1CCOCC1)C)C(=O)OCC)(F)F | C26H33F3N2O5
